* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Labos\S6\filtre_passe_bande.asc
R1 N002 N001 1k
C1 N002 N001 7961n
C2 N001 N004 79.6n
R2 N004 N003 10k
XU1 0 N001 V++ V-- N002 TL084
V1 V++ 0 15
V2 V-- 0 -15
V3 N003 0 AC 1.
R3 N002 0 10
.include Z:\home\thetheos\Downloads\TL084.lib
.ac dec 100 20 30k
.backanno
.end
