* E:\Documents\UCL\bac2\Q4\projetElec\LELEC1101-31\Labos\S7\oscillo.asc
XU1 N002 0 VCC VEE Vout TL084
V1 VCC 0 15
V2 VEE 0 -15
R2 Vout N002 3k
XU2 0 N001 VCC VEE Vin2 TL084
R4 N001 Vout 1k
R1 N002 Vin2 1k
C1 Vin2 N001 300n
.include TL084.lib
.tran 1000m
* Vseuil=(VCC*R1)/(R1+R2)
.backanno
.end
