* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\ez_multiplier.asc
V1 Vcc 0 15
V2 Vee 0 -15
V3 V1 0 SINE(0 0.2 1000)
V4 V2 0 SINE(0 0.2 100)
R1 N008 V1 100
R2 N008 V2 100
R3 N009 V2 100
R4 N009 V2 100
R5 N005 N008 50
R6 N009 N005 50
R7 N010 N009 50
R8 N006 N005 50
R9 N010 N004 50
R10 N007 N003 100
R11 N003 N002 100
R12 N002 N001 100
XU1 0 N008 Vcc Vee N005 TL084
XU2 0 N009 Vcc Vee N010 TL084
XU3 0 N007 Vcc Vee N003 TL084
XU4 0 N002 Vcc Vee N001 TL084
D1 N006 N002 D
D2 N002 N004 D
D3 N004 N007 D
D4 N007 N006 D
R13 N001 0 100
.model D D
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 600ms
.include TL084.lib
.backanno
.end
