* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\Complete_Circuit\Draft1.asc
J1 N002 N001 0 NJF
R1 V++ N002 14k
V1 N001 0 SINE(0 0.001 3000 0 0 90)
C1 N002 N003 2.2µ
V2 V++ 0 15
V3 V-- 0 -15
.model NJF NJF
.model PJF PJF
.lib C:\users\thetheos\My Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 100m 0 1m
* Opamp voltage
.backanno
.end
