* C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\RX_Arcsinus\arc sine.asc
XU1 N004 N002 N001 N005 pwm LM393
V1 N001 0 5V
V2 0 N005 5V
Vsine sine 0 SINE(0 2 10000)
Vinput input 0 -1
R1 N002 sine 100
R2 N004 input 100
R3 N001 pwm 1k5
R4 N003 pwm 100k
C1 N003 0 1n
C2 out 0 1n
R5 out N003 100k
.tran 1
* Arc sine converter - principle                km\n------------------------------------------------------------------
.subckt LM393    1 2 3 4 5
*
f1    9  3 v1 1
iee   3  7 dc 100.0E-6
vi1  21  1 dc .75
vi2  22  2 dc .75
q1    9 21  7 qin
q2    8 22  7 qin
q3    9  8  4 qmo
q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=2.000E3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=475.4E-9)
e1   10  4  9  4  1
v1   10 11 dc 0
q5    5 11  4 qoc
.model qoc NPN(Is=800.0E-18 Bf=20.69E3 Cjc=1E-15 Tf=3.540E-9 Tr=472.8E-9)
dp    4  3 dx
rp    3  4 37.50E3
.model dx  D(Is=800.0E-18 Rs=1)
.ends
.backanno
.end
