* C:\Users\guill\Programmes\LELEC1101-31\Ressources\allBlocks\RX_lowPassFilter\lowPassFilter.asc
V1 Vin 0 PULSE(0 15 0 0.01m 0.01m 1m 2m)
R1 Vin N001 1000
C1 N001 0 17µ
.tran 1
.backanno
.end
