* C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\RX_multiplier\gilber_cell.asc
Q1 N003 V1 N008 0 2N2222
Q2 N004 N005 N008 0 2N2222
Q3 N003 N005 N007 0 2N2222
Q4 N004 V1 N007 0 2N2222
Q5 N008 N010 N012 0 2N2222
Q6 N007 N011 N012 0 2N2222
V1 N001 0 SINE(0 0.1 3000 0 0 180)
V2 V2 0 SINE(0 0.05 3000)
V3 V3 0 10
C2 N010 V2 0.1µ
C1 V1 N001 0.1µ
R5 V3 N003 270
R6 V3 N004 270
R7 N012 0 270
R2 N006 N009 3.3k
R8 N009 0 2.2k
R3 N009 N011 2.2k
R1 V3 N006 4.7k
R4 N006 N005 2.2k
R9 N006 V1 2.2k
C3 N006 0 0.1µ
C4 N009 0 0.1µ
C5 N005 0 0.1µ
R10 N009 N010 2.2k
R11 N002 N003 1k
C6 N002 N004 16µ
.model NPN NPN
.model PNP PNP
.lib C:\users\thetheos\Mes documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2.1 0
.backanno
.end
