* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\RX_square\Square.asc
XU1 Vin 0 15 -15 Vout TL084
V1 15 0 15
V2 -15 0 -15
V3 Vin 0 SINE(0 0.01 1k)
.include ../TL084.lib
.tran 10m
.backanno
.end
