* C:\users\thetheos\My Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\TX_oscillator\oscillo.asc
XU1 N003 0 VCC VEE Vout TL084
V1 VCC 0 15
V2 VEE 0 -15
R2 Vout N003 1k
XU2 0 N001 VCC VEE N002 TL084
C1 N002 N001 20n
R4 N001 Vout 2k
R1 N003 N002 1k
.include ../TL084.lib
* K=R6/R5
* Vseuil=(VCC*R1)/(R1+R2)
.tran 5m startup
.backanno
.end
