* C:\Users\guill\Programmes\LELEC1101-31\Ressources\allCircuits\Draft9.asc
XU1 0 in 0 Vee NC_01 NC_02 out Vcc LT1011
V1 Vee 0 -15
V2 Vcc 0 15
V3 in 0 PULSE(-5 5 0 0.01u 0.01u 1m 2m)
R1 out Vcc 50k
.tran 10m
.lib LTC1.lib
.backanno
.end
